US07439237B2
(9b) 3-chloro-4-hydroxy-5-trifluoromethyl-benzoic Acid
A mixture of 11.7 g (57 mmol) 4-hydroxy-3-trifluoromethyl-benzoic acid and 40 ml acetic acid was combined dropwise with 5.15 ml (63 mmol) sulphurylchloride, with stirring at a bath temperature of 40° C., and stirred for 2 hours at 40° C. Then another 2.5 ml (31 mmol) sulphurylchloride were added and the mixture was stirred for 4 hours at 60° C. The reaction mixture was poured onto 300 ml of water and extracted with 200 ml EtOAc. The organic phase washed twice with 500 ml of water, dried and evaporated down under reduced pressure. The residue was stirred with 80 ml petroleum ether, the precipitate was suction filtered, washed with 20 ml petroleum ether and dried.

reactant | 4-hydroxy-3-trifluoromethyl-benzoic acid | 57 mmol, 11.7 g | OC1=C(C=C(C(=O)O)C=C1)C(F)(F)F | C8H5F3O3
reactant | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
reactant | sulphurylchloride | 63 mmol, 5.15 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | sulphurylchloride | 31 mmol, 2.5 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | water | 300 ml | O | H2O
product | 3-chloro-4-hydroxy-5-trifluoromethyl-benzoic Acid | ClC=1C=C(C(=O)O)C=C(C1O)C(F)(F)F | C8H4ClF3O3
